US05686486
Cyclopropyl (5-methyl-4-hydroxymethylthien-2-yl) carbinol (Formula UU-2) Refer to Chart UU
Thiophene-3-methanol of formula UU-1 (4.56 g) is added to THF (100 mL) and cooled to -78° C. n-Butyl lithium (55 cc) is then added and the reaction stirred for 2 hours at -78° C. and then the cooling bath is removed for 30 minutes. The reaction temperature is again reduced to -78° C. and methyl iodide (5.68 g), in THF (5 mL), is added. The reaction is stirred for 1.3-1.0 hours at room temperature and then cooled back to -78° C. n-Butyl lithium is then added and the reaction is left stirring for 1 hour at -78° C. and then the cooling bath removed for 30 minutes and cooled back to -78° C. Cyclopropyl carboxaldehyde (2.8 g) is then added in a single portion and stirring continued for 30 minutes. The reaction is quenched with saturated NH4Cl and extracted with ether. The ether extracts are dried and solvent evaporated in vacuo to yield a pale brown oil. Silica gel chromatography (400 g silica gel; eluting with 1/1 EtOAc/hexane) affords 1.21 g of the title product.

reactant | Thiophene-3-methanol | S1C=C(C=C1)CO | C5H6OS
reactant | n-Butyl lithium | 55 cc | C(CCC)[Li]
reactant | THF | 100 mL | C1CCOC1 | C4H8O
product | Cyclopropyl (5-methyl-4-hydroxymethylthien-2-yl) carbinol | 1.21 g | C1(CC1)C(O)C=1SC(=C(C1)CO)C | C10H14O2S
